US08008425B2
Synthesis of 4,4′-{3-(octane-1-sulfonyl)-thiophene-2,5-diyl}bis(N,N-diphenylaniline)
3-(Octane-1-sulfonyl)thiophene, cesium carbonate (2.4 equivalents), 4-bromo-N,N-diphenylaniline (2.4 equivalents), biphenyl di t-butylphosphine (0.2 equivalent) and palladium acetate (0.1 equivalent) were placed in a reaction vessel. Under a nitrogen gas atmosphere, DMF was added, followed by heating at 150° C. for 7 hours. After completion of the reaction, the reaction mixture was filtered through “Celite”, and the residue was washed with ethyl acetate. The filtrate was washed with a 1 N aqueous solution of hydrochloric acid and then with 10% brine, anhydrous sodium sulfate was added to the organic layer to dry the same, and the solvent was distilled off. The thus-obtained crude product was purified through a silica gel column (hexane:ethyl acetate=5:1) to afford an optic yellow solid.

reactant | 3-(Octane-1-sulfonyl)thiophene | C(CCCCCCC)S(=O)(=O)C1=CSC=C1 | C12H20O2S2
reactant | cesium carbonate | 2.4 equivalents | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-bromo-N,N-diphenylaniline | 2.4 equivalents | BrC1=CC=C(N(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C18H14BrN
reactant | biphenyl di t-butylphosphine | 0.2 equivalent | C(C)(C)(C)PC(C)(C)C.C1(=CC=CC=C1)C1=CC=CC=C1
catalyst | palladium acetate | 0.1 equivalent | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | DMF | CN(C)C=O | C3H7NO
product | 4,4′-{3-(octane-1-sulfonyl)-thiophene-2,5-diyl}bis(N,N-diphenylaniline) | C(CCCCCCC)S(=O)(=O)C1=C(SC(=C1)C1=CC=C(N(C2=CC=CC=C2)C2=CC=CC=C2)C=C1)C1=CC=C(N(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C48H46N2O2S2
